US04032559
3-(Cyanoimino)-3-pyrrolidinopropionitrile
Pyrrolidine (2.07 g, 0.0292 m) is added to 4.00 g (0.0292 m) of an ice-cooled solution of ethyl N,2-dicyanoacetimidate in 80 ml of tetrahydrofuran and stirred for two hours at room temperature. The crude product is isolated and chromatographed in the same manner as that of Example 2. The tlc-pure crystalline product (4.80 g) is triturated with diethyl ether to give 4.00 g (84%), mp 45° C. Nmr and ir are consistent.

reactant | Pyrrolidine | 2.07 g | N1CCCC1 | C4H9N
reactant | ethyl N,2-dicyanoacetimidate | C(#N)N=C(CC#N)OCC | C6H7N3O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 3-(Cyanoimino)-3-pyrrolidinopropionitrile | C(#N)N=C(CC#N)N1CCCC1 | C8H10N4
